US07951824B2
4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-cyano-thiazol-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 2-Amino-4-thiazolecarbonitrile instead of 3-chloroaniline to yield the final compound as a off-white solid, MS (ISP): m/e=356.9 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 2-Amino-4-thiazolecarbonitrile | NC=1SC=C(N1)C#N | C4H3N3S
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-cyano-thiazol-2-yl)-amide | C(#N)C=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C17H10F2N4OS
